US07592453B2
[1-(Benzoylamino)cyclohexyl]acetic acid
To a mixture of ethyl (1-hydroxycyclohexyl)acetate (17.1 g, 92.1 mmol) and benzonitrile (9.5 ml, 92.1 mmol) was added conc. sulfuric acid (50 ml) at 0° C., and the mixture was stirred at room temperature for 12 hrs. Water (200 ml) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, and then with saturated brine and dried over anhydrous MgSO4. After concentration under reduced pressure, ethanol (50 ml) and 50% aqueous potassium hydroxide solution (10 ml) were added to the residue, and the mixture was heated under reflux for 6 hrs. Water (400 ml) was added to the reaction mixture, and the mixture was washed with diethyl ether. The aqueous layer was acidified (pH 2) with 5N hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous Na2SO4, and concentrated under reduced pressure. The obtained solid was recrystallized from ethanol-toluene to give the title compound (18.1 g, 75%) as colorless crystals.

reactant | ethyl (1-hydroxycyclohexyl)acetate | 92.1 mmol, 17.1 g | OC1(CCCCC1)CC(=O)OCC | C10H18O3
reactant | benzonitrile | 92.1 mmol, 9.5 ml | C(C1=CC=CC=C1)#N | C7H5N
reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | Water | 200 ml | O | H2O
product | [1-(Benzoylamino)cyclohexyl]acetic acid | 18.1 g, 75% | C(C1=CC=CC=C1)(=O)NC1(CCCCC1)CC(=O)O | C15H19NO3
